US08865726B2
To the solid 3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one (0.36 g, 0.63 mmol) was added TFA (20 mL) and the reaction stirred at ambient temperature for 2 hours. The reaction was concentrated in vacuo and the material slurried in 1:1 methanol/acetonitrile (20 mL) with 10 mL of water, then stirred for 2 hours at ambient temperature. The reaction was concentrated in vacuo and the water layer basified to about pH 7 by the addition of saturated NaHCO3. The solids were filtered and washed with water. The solids were then slurried in 1:1 methanol/acetonitrile (20 mL) with 10 mL of water, and the organic solvents were removed in vacuo (3×). The residue was slurried in 1:1 methanol/acetonitrile (5 mL) with 10 mL of water and the solid filtered and washed with water to yield 3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one (0.30 g, 0.68 mmol, 108% yield). LCMS (APCI+) m/z 443 [M+H]+.

reactant | 3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one | 0.63 mmol, 0.36 g | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OCC2C2=NC=CC=C2)=O | C28H29FN8O3Si
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one | 0.68 mmol, 0.30 g, 108% yield | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OCC2C2=NC=CC=C2)=O | C22H15FN8O2
